US05384312
A mixture of benzyltrimethylsilylketone (1.40 g, 7.3 mmol) of sodium cyanoborohydride (0,321 g, 5.1 mmol) and ammonium acetate (5.93 g, 73 mmol) in anhydrous methanol (25 ml) was stirred at room temperature for 48 hours. The mixture was poured into 2N sodium hydroxide (20 ml) and extracted with diethyl ether (3×100 ml). The organic phase was dried over anhydrous magnesium sulphate. Trituration, removal of the solvent, in vacuo, and chromatography from silica gel (ethyl acetate/cyclohexane 1:1) yielded the crude α-(trimethylsilyl)benzeneethanamine which was directly converted to the product of this step using 1 equivalent of (BOC)2O in THF. Rf: 0.74 (ethyl acetate/cyclohexane 1:1) m.p. 67°-68° C.

reactant | benzyltrimethylsilylketone | 7.3 mmol, 1.40 g | C(C1=CC=CC=C1)C[Si](C)(C)C(=O)[Si](C)(C)CCC1=CC=CC=C1 | C21H30OSi2
reactant | sodium cyanoborohydride | 5.1 mmol, 0,321 g | C(#N)[BH3-].[Na+]
reactant | ammonium acetate | 73 mmol, 5.93 g | C(C)(=O)[O-].[NH4+]
reactant | sodium hydroxide | 2N, 20 ml | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | α-(trimethylsilyl)benzeneethanamine | C[Si](C(CC1=CC=CC=C1)N)(C)C | C11H19NSi
